US07994337B2
A solution of 1-(2-fluorophenyl)-2-(2-(isopropylamino)thiazolo[5,4-b]pyridin-5-yl)ethanone (0.0403 g, 0.122 mmol, 1.0 eq.) in DMF/DMA (1.0 mL) was heated under nitrogen at 80° C. for 2 hr. After cooling to room temperature, the reaction mixture was concentrated in vacuo and dissolved in EtOH (0.5 mL). Hydrazine (0.1 mL, 3.19 mmol, 26.1 eq.) was added, and the reaction was allowed to stand for 2.75 hr and then concentrated in vacuo. MeOH was added to the residue, and the mixture was subjected to autoprep. The appropriate fractions were collected, and NaHCO3 (s) was added. The solution was then concentrated in vacuo not to dryness and extracted with CH2Cl2 (3×). The organic layers were combined, dried over Na2SO4, filtered, and concentrated in vacuo to give 5-(3-(2-fluorophenyl)-1H-pyrazol-4-yl)-N-isopropylthiazolo[5,4-b]pyridin-2-amine as a light yellow solid (0.0125 g, 29% yield). LC/MS (MH)=354.26.

reactant | 1-(2-fluorophenyl)-2-(2-(isopropylamino)thiazolo[5,4-b]pyridin-5-yl)ethanone | 0.122 mmol, 0.0403 g, 1.0 eq. | FC1=C(C=CC=C1)C(CC1=CC=C2C(=N1)SC(=N2)NC(C)C)=O | C17H16FN3OS
reactant | Hydrazine | 3.19 mmol, 0.1 mL, 26.1 eq. | NN | H4N2
reactant | DMF DMA | 1.0 mL | CN(C)C=O.CC(=O)N(C)C
product | 5-(3-(2-fluorophenyl)-1H-pyrazol-4-yl)-N-isopropylthiazolo[5,4-b]pyridin-2-amine | 0.0125 g, 29% yield | FC1=C(C=CC=C1)C1=NNC=C1C1=CC=C2C(=N1)SC(=N2)NC(C)C | C18H16FN5S
